US08236806B2
1-(3-(1-tert-butyl-5-(4-fluorophenyl)-1H-pyrazol-3-yl)propyl)-4-(2,4-dimethylphenyl)piperazine (Compound 84)
139 mg (79%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-(4-fluorophenyl)-1H-pyrazol-3-yl)propanal (100 mg, 0.365 mmol), 1-(2,4-dimethylphenyl)piperazine (69 mg, 0.365 mmol), DIPEA (0.1 mL, 0.548 mmol) and NaBH(OAc)3 (232 mg, 1.095 mmol).

reactant | 3-(1-tert-butyl-5-(4-fluorophenyl)-1H-pyrazol-3-yl)propanal | 0.365 mmol, 100 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)F)CCC=O | C16H19FN2O
reactant | 1-(2,4-dimethylphenyl)piperazine | 0.365 mmol, 69 mg | CC1=C(C=CC(=C1)C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.548 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.095 mmol, 232 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-(4-fluorophenyl)-1H-pyrazol-3-yl)propyl)-4-(2,4-dimethylphenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)F)CCCN1CCN(CC1)C1=C(C=C(C=C1)C)C | C28H37FN4
